US03975524
1-Thiomorpholino-3-chloro-5-methyl-isoquinoline
1-Thiomorpholino-3-chloro-5-nitro-isoquinoline, m.p. 163°-165°C (from ethyl acetate), was prepared from 1,3-dichloro-5-nitro-isoquinoline [see M. D. Nair and S. R. Mehta, Indian J. Chem. 5, 403 (1967); m.p. 176°-177°C] and thiomorpholine.

reactant | 1-Thiomorpholino-3-chloro-5-nitro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])Cl | C13H12ClN3O2S
reactant | 1,3-dichloro-5-nitro-isoquinoline | ClC1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Thiomorpholino-3-chloro-5-methyl-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)C)Cl | C14H15ClN2S
